US06437184B1
First, 13.02 g of 1,5-pentanediol, 2.40 g of sodium hydroxide (powdery), 1.14 g of benzyltriethylammonium chloride, and 100 ml of tetrahydrofuran were placed in a reaction vessel, to which 8.18 g of chloroacetone O-tert-butyloxime was slowly added dropwise with stirring under heating under reflux. After further stirring for 8 hours, the reaction mixture was poured into diluted hydrochloric acid, and extracted twice with ethyl acetate. The ethyl acetate layers were combined, washed with diluted hydrochloric acid and water in this order, dried over anhydrous magnesium sulfate, and concentrated to give a crude product. This crude product was subjected to silica gel chromatography, which afforded 6.79 g (yield, 59%) of 5-hydroxypentyloxyacetone O-tert-butyloxime, nD20.0 1.4493.

reactant | 1,5-pentanediol | 13.02 g | C(CCCCO)O | C5H12O2
reactant | sodium hydroxide | 2.40 g | [OH-].[Na+]
reactant | chloroacetone O-tert-butyloxime | 8.18 g | C(C)(C)(C)ON=C(C)CCl | C7H14ClNO
reactant | hydrochloric acid | Cl | ClH
catalyst | benzyltriethylammonium chloride | 1.14 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-hydroxypentyloxyacetone O-tert-butyloxime | 6.79 g, 59% | C(C)(C)(C)ON=C(C)COCCCCCO | C12H25NO3
